US04902700
Synthesis of 4-isopropyl-2-(trans-3-aminostyryl) thiazole
To a solution of 16.8 g of 4-isopropyl-2-(trans-3-nitrostyryl)thiazole dissolved in 60 ml of ethanol was added a solution of 48.4 g of stannous chloride dihydrate in 60 ml of ethanol and the mixture was refluxed for 1.5 hours. After the reaction mixture was cooled to room temperature, the mixture was adjusted to pH 13 with addition of 30% aqueous sodium hydroxide solution and then the basic portion was extracted with the use of ethyl acetate and dried over magnesium sulfate, followed by evaporation of the solvent under reduced pressure. The solid residue formed was recrystallized from ethyl ether-n-hexane to obtain 7.1 g (yield 47%) of the pale yellowish white title compound.

reactant | 4-isopropyl-2-(trans-3-nitrostyryl)thiazole | 16.8 g | C(C)(C)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C14H14N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-isopropyl-2-(trans-3-aminostyryl) thiazole | 7.1 g, yield 47% | C(C)(C)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)N | C14H16N2S
